US08304546B2
2,2-Dimethyl-5-[(3-propoxynaphthalen-2-ylamino) methylene][1,3]dioxane-4,6-dione (4.19 g, 11.7 mmol) was added to diphenyl ether (15 ml), and the mixture was heated with a mantle heater and then maintained under reflux for 2 hours. The mixture was cooled to room temperature and purified using silica gel column chromatography (dichloromethane:methanol=70:1→9:1). The purified product was concentrated to dryness under reduced pressure, giving a dark brown powder of 5-propoxy-4H-benzo[f]quinolin-1-one (3.15 g, yield: 61%).

reactant | 2,2-Dimethyl-5-[(3-propoxynaphthalen-2-ylamino) methylene][1,3]dioxane-4,6-dione | 11.7 mmol, 4.19 g | CC1(OC(C(C(O1)=O)=CNC1=CC2=CC=CC=C2C=C1OCCC)=O)C | C20H21NO5
reactant | diphenyl ether | 15 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 5-propoxy-4H-benzo[f]quinolin-1-one | 3.15 g, yield: 61% | C(CC)OC1=CC2=C(C=3C(C=CNC13)=O)C=CC=C2 | C16H15NO2
